US04632930
4-(1-methylethyl)-5-(4-nitrophenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol
To a suspension of 4-(1-methylethyl)-5-phenyl-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol (1.75 g) in 40 ml of water was added 2.5 ml of concentrated nitric acid in a dropwise manner. The mixture was stirred for 30 minutes, and the nitrate salt, 1.51 g) was filtered off. The solid in 5 ml of concentrated sulfuric acid was heated at reflux for 2 hours. The reaction mixture was poured into 50 ml of ice-water. The mixture was basified to a pH of 8 and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated to dryness to afford a yellow solid which was purified by flash chromatography on silica gel (85:15 hexane/ethyl acetate) to afford (0.98 g, 50%) of the title compound as a pale yellow solid, m.p. 157°-160° C.

reactant | 4-(1-methylethyl)-5-phenyl-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol | 1.75 g | CC(C)C=1N=C(NC1C1=CC=CC=C1)C(O)(C(F)(F)F)C(F)(F)F | C15H14F6N2O
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 40 ml | O | H2O
product | 4-(1-methylethyl)-5-(4-nitrophenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol | 0.98 g, 50% | CC(C)C=1N=C(NC1C1=CC=C(C=C1)[N+](=O)[O-])C(O)(C(F)(F)F)C(F)(F)F | C15H13F6N3O3
